US07074798B2
b) 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester
2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester (600 mg) and potassium carbonate (630 mg) were suspended in N,N-dimethylformamide (10 ml), and 4-bromo-2-methyl-2-butene (183 μl) was added to the suspension at room temperature. After the reaction mixture was stirred at room temperature for 24 hours, the mixture was diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. After the solvent was removed by distillation from the organic layer, the residue was purified by silica gel column chromatography to give 470 mg of the title compound from the elution fraction of hexane-ethyl acetate (3:1).

reactant | 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester | 600 mg | ClC1=NC=2N(C(N(C(C2N1)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C17H23ClN4O6
reactant | potassium carbonate | 630 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromo-2-methyl-2-butene | 183 μl | BrCC=C(C)C | C5H9Br
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethylpropionic acid [8-chloro-3-(2,2-dimethylpropionyloxymethyl)-7-(3-methylbut-2-enyl)-2,6-dioxo-2,3,6,7-tetrahydropurin-1-yl]methyl ester | 470 mg | ClC1=NC=2N(C(N(C(C2N1CC=C(C)C)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C22H31ClN4O6
